US08003649B2
A mixture of 1-(thiophen-3-ylmethyl)piperazine and 6-chloro-3-[chloro(difluoro)methyl]-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by an analogous method to Example 339 to give 3-[chloro(difluoro)methyl]-6-[4-(thiophen-3-ylmethyl)piperazin-1-yl][1,2,4]triazolo[4,3-b]pyridazine in 70% yield.

reactant | 1-(thiophen-3-ylmethyl)piperazine | S1C=C(C=C1)CN1CCNCC1 | C9H14N2S
reactant | 6-chloro-3-[chloro(difluoro)methyl]-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)Cl | C6H2Cl2F2N4
product | 3-[chloro(difluoro)methyl]-6-[4-(thiophen-3-ylmethyl)piperazin-1-yl][1,2,4]triazolo[4,3-b]pyridazine | 70% yield | ClC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)CC2=CSC=C2)(F)F | C15H15ClF2N6S
